US09226916B2
4-{(3R,4S)-3-(4-Chloro-phenyl)-4-[(4-fluoro-phenoxycarbonyl)-methyl-amino]-pyrrolidine-1-carbonyl}-piperidine-1-carboxylic acid tert-butyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound 4-{(3R,4S)-3-(4-chloro-phenyl)-4-[(4-fluoro-phenoxycarbonyl)-methyl-amino]-pyrrolidine-1-carbonyl}-piperidine-1-carboxylic acid tert-butyl ester was prepared from [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester instead of [(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using piperidine-1,4-dicarboxylic acid mono-tert-butyl ester instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as a light-brown gum. MS m/e: 560.3 [M]+.

reactant | [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CNC[C@H]1C1=CC=C(C=C1)Cl)=O | C18H18ClFN2O2
reactant | piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
product | 4-{(3R,4S)-3-(4-chloro-phenyl)-4-[(4-fluoro-phenoxycarbonyl)-methyl-amino]-pyrrolidine-1-carbonyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)N1C[C@H]([C@@H](C1)N(C)C(=O)OC1=CC=C(C=C1)F)C1=CC=C(C=C1)Cl | C29H35ClFN3O5
